US05681954
Ethyl 3-(4,5-Dimethoxy-2-(1-pyrrolyl)phenyl)propionate
In 50 ml of ethanol was dissolved 3.1 g of diethyl (2-(4,5-dimethoxy-2-(1-pyrrolyl)phenyl)ethyl)malonate, and 5.0 ml of 35% sodium hydroxide was added to the solution, followed by heating under reflux for 3 hours. The solvent was removed under reduced pressure, and water was added to the residue. The residue was made acidic with concentrated hydrochloric acid and extracted with chloroform. The extract was dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure to yield pale brown powder. The powder was heated at 150° C. for 10 minutes, allowed to cool, and purified by silica gel column chromatography (chloroform-methanol) to obtain 2.1 g of pale brown powder. Recrystallization from chloroform-ethyl ether gave the title compound as a colorless crystal.

reactant | diethyl (2-(4,5-dimethoxy-2-(1-pyrrolyl)phenyl)ethyl)malonate | 3.1 g | COC1=CC(=C(C=C1OC)CCC(C(=O)OCC)C(=O)OCC)N1C=CC=C1 | C21H27NO6
reactant | sodium hydroxide | 5.0 ml | [OH-].[Na+]
reactant | ethanol | 50 ml | C(C)O | C2H6O
product | Ethyl 3-(4,5-Dimethoxy-2-(1-pyrrolyl)phenyl)propionate | 2.1 g | COC1=CC(=C(C=C1OC)CCC(=O)OCC)N1C=CC=C1 | C17H21NO4
